US07820664B2
Step B: 8-Chloro-1-(2-fluoro-4-iodophenyl)-5-methyl-3,5-dihydrodiimidazo[4,5-b:4′,5′-e]pyridin-2(1H)-one:
To a suspension of 7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid (2.75 g, 6.16 mmol) in toluene (80 ml) is added triethylamine (2.57 ml, 18.5 mmol) and diphenylphosphoryl azide (1.56 ml, 7.7 mmol). The reaction is heated at reflux for 4 h. The mixture is cooled to room temperature and concentrated to dryness. Silica gel chromatography yields the title compound.

reactant | 7-chloro-6-(2-fluoro-4-iodophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 6.16 mmol, 2.75 g | ClC1=C2C(=NC(=C1NC1=C(C=C(C=C1)I)F)C(=O)O)N(C=N2)C | C14H9ClFIN4O2
reactant | triethylamine | 18.5 mmol, 2.57 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.7 mmol, 1.56 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-1-(2-fluoro-4-iodophenyl)-5-methyl-3,5-dihydrodiimidazo[4,5-b:4′,5′-e]pyridin-2(1H)-one | ClC1=C2C(=NC3=C1N=CN3C)NC(N2C2=C(C=C(C=C2)I)F)=O | C14H8ClFIN5O
